US07919519B2
At 24° C., a mixture of 4-(6-benzylbenzo[d]thiazol-2-yl)-3-fluorobenzaldehyde (190 mg, 547 μmol), azetidine-3-carboxylic acid (166 mg, 1641 μmol), acetic acid (0.095 mL, 1641 μmol) in MeOH (2 mL) and DCM (2 mL) was stirred for 1 h. The light yellow solution was treated with sodium borocyanohydride (34 mg, 547 μmol). The mixture was stirred for 12 h. The solids were filtered off and washed 3× with DCM, suspended in 4 mL of an aqueous buffered solution (phosphate buffer pH 6) and sonicated for 10 min. The mixture was filtered and the solids washed with water and dried in vacuo to yield 1-((4-(6-Benzylbenzo[d]thiazol-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylic acid as a white solid [hS1P1 EC50=149 nM]. 1H NMR (400 MHz, DMSO-d6) δ ppm 8.27 (t, J=8.4 Hz, 1H), 8.04 (s, 1H), 8.01 (d, J=8.4 Hz, 1H), 7.44 (d, J=6.6 Hz, 1H), 7.34-7.29 (m, 6H), 7.21-7.20 (m, 1H), 4.11 (s, 2H), 3.83-3.82 (br. m, 1H), 3.63 (s, 2H), 3.41 (t, J=6.8 Hz, 2H), 3.21 (t, J=7.0 Hz, 2H). MS (ESI) m/z: Calculated: 432.5; Observed: 433.2 (M++1).

reactant | 4-(6-benzylbenzo[d]thiazol-2-yl)-3-fluorobenzaldehyde | 547 μmol, 190 mg | C(C1=CC=CC=C1)C1=CC2=C(N=C(S2)C2=C(C=C(C=O)C=C2)F)C=C1 | C21H14FNOS
reactant | azetidine-3-carboxylic acid | 1641 μmol, 166 mg | N1CC(C1)C(=O)O | C4H7NO2
reactant | acetic acid | 1641 μmol, 0.095 mL | C(C)(=O)O | C2H4O2
reactant | sodium | [Na] | Na
solvent | MeOH | 2 mL | CO | CH4O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-((4-(6-Benzylbenzo[d]thiazol-2-yl)-3-fluorophenyl)methyl)azetidine-3-carboxylic acid | C(C1=CC=CC=C1)C1=CC2=C(N=C(S2)C2=C(C=C(C=C2)CN2CC(C2)C(=O)O)F)C=C1 | C25H21FN2O2S
